US09422331B2
A rt solution of tert-butyl(3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (69 mg, 113 μmol) in 4 M HCl in dioxane (566 μl) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration to provide (3S,4S)-3-amino-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile dihydrochloride (60 mg, 91%) as a white solid.

reactant | tert-butyl(3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 113 μmol, 69 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(=O)C2CCOCC2)C)NC(OC(C)(C)C)=O)=O)CC2=C(C=NC3=CC=CC=C23)C2CC2)C=C1 | C35H39N5O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 566 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (3S,4S)-3-amino-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile dihydrochloride | 60 mg, 91% | Cl.Cl.N[C@H]1[C@@H](N(C2=C(N(C1=O)CC1=C(C=NC3=CC=CC=C13)C1CC1)C=CC(=C2)C#N)C(=O)C2CCOCC2)C | InChI=1S/C30H31N5O3.2ClH/c1-18-28(32)30(37)34(17-24-22-4-2-3-5-25(22)33-16-23(24)20-7-8-20)26-9-6-19(15-31)14-27(26)35(18)29(36)21-10-12-38-13-11-21;;/h2-6,9,14,16,18,20-21,28H,7-8,10-13,17,32H2,1H3;2*1H/t18-,28-;;/m0../s1
